US07968570B2
A mixture of 2-bromomethyl-6-iodo-benzoic acid methyl ester (0.200 g, 0.56 mmol), 4-phenoxy-benzylamine (0.7 mmol), and K2CO3 (0.166 g, 1.2 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 7-iodo-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one (0.108 g, 44%). 1H NMR (300 MHz, CDCl3): δ (ppm) 4.19 (s, 2H), 4.75 (s, 2H), 6.94-7.40 (m, 1H), 7.92 (d, 1H). GC-MS: m/z 441 (M)+.

reactant | 2-bromomethyl-6-iodo-benzoic acid methyl ester | 0.56 mmol, 0.200 g | COC(C1=C(C=CC=C1I)CBr)=O | C9H8BrIO2
reactant | 4-phenoxy-benzylamine | 0.7 mmol | O(C1=CC=CC=C1)C1=CC=C(CN)C=C1 | C13H13NO
reactant | K2CO3 | 1.2 mmol, 0.166 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 7-iodo-2-(4-phenoxy-benzyl)-2,3-dihydro-isoindol-1-one | 0.108 g, 44% | IC=1C=CC=C2CN(C(C12)=O)CC1=CC=C(C=C1)OC1=CC=CC=C1 | C21H16INO2
